US08580799B2
To a stirred solution of 2-{6-[({[(Z)-(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]amino}-oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione (49 g, 91 mmol) in dry THF (800 mL) was added hydrazine hydrate (22.2 mL, 457 mmol). The reaction mixture was stirred at room temperature for 14 h, then insolubles were removed by filtration and washed with THF. The filtrates were combined and concentrated in vacuo. Purification of the residual oil on silica gel afforded 6-[({[(Z)-(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]amino}oxy)-methyl]pyridin-2-amine as a yellow oil [22.2 g, yield 75%; HPLC/MS: m/z=326 (M+H); log P(HCOOH)=1.54].

reactant | 2-{6-[({[(Z)-(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]amino}-oxy)methyl]pyridin-2-yl}-1H-isoindole-1,3(2H)-dione | 91 mmol, 49 g | CC=1C(=NSN1)\C(\C1=CC=CC=C1)=N/OCC1=CC=CC(=N1)N1C(C2=CC=CC=C2C1=O)=O | C24H17N5O3S
reactant | hydrazine hydrate | 457 mmol, 22.2 mL | O.NN
solvent | THF | 800 mL | C1CCOC1 | C4H8O
product | 6-[({[(Z)-(4-methyl-1,2,5-thiadiazol-3-yl)(phenyl)methylene]amino}oxy)-methyl]pyridin-2-amine | yield 75% | CC=1C(=NSN1)\C(\C1=CC=CC=C1)=N/OCC1=CC=CC(=N1)N | C16H15N5OS
